US06919329B2
Step 1: Preparation of 6-nitro-3-isopropyl-2(3H)-benzothiazolone
A stirred solution of 6-nitro-2-benzothiazolinone (5.0 g, 25.5 mmol) in anhydrous N,N-dimethylformamide (51 mL) under N2 is treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (4.96 mL, 33.1 mmol) dropwise. Following a slight exotherm, the reaction mixture is heated up to 50° C. and treated with 2-iodopropane (12.7 mL, 127 mmol). The resulting mixture is quickly heated up to 75° C., stirred at this temperature for 40 mins, cooled to ambient temperature and diluted with ice (100 mL) and water (100 mL). The precipitate is isolated by filtration and recrystallized from ethyl acetate/hexanes to give the title compound, mp 138-142° C.

reactant | 6-nitro-2-benzothiazolinone | 25.5 mmol, 5.0 g | [N+](=O)([O-])C1=CC2=C(NC(S2)=O)C=C1 | C7H4N2O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 33.1 mmol, 4.96 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-iodopropane | 127 mmol, 12.7 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 51 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 6-nitro-3-isopropyl-2(3H)-benzothiazolone | [N+](=O)([O-])C1=CC2=C(N(C(S2)=O)C(C)C)C=C1 | C10H10N2O3S
